US09034898B2
Step 1.4 benzyl 1-benzyl-6-[4-fluoro-3-(methoxycarbonyl)phenyl]-1H-pyrazolo[3,4-b]pyridine-4-carboxylate
The catalyst Pd(t-BuP)2 (2.03, 3.97 mmol) or Pd(PPh3)4 (4.58 g/4.0 mmol) is added to a suspension of benzyl 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylate (15.0 g/40 mol), 3-fluoro-3-methoxycarbonylphenylboronic acid (15.7 g/79 mol) and caesium carbonate (25.9 g/0.079 mol) in 125 mL of anhydrous DMF under argon. The mixture is stirred at 80° C. for 2 hours under argon. The reaction mixture is hot-filtered through talc, run into a saturated aqueous solution of NaHCO3 and extracted with EtOAc. After separation of the two phases, the organic phase is washed with water, dried over sodium sulphate and then concentrated until the first crystals appear. The crystalline product is filtered, washed with diisopropyl ether, and then dried under vacuum. The filtrate is run into a DCM/cyclohexane (50/50) mixture and the precipitate obtained is filtered and dried under vacuum. The two batches are combined to give 12.3 g of a yellow powder (yield: 62%).

reactant | benzyl 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylate | 40 mol, 15.0 g | C(C1=CC=CC=C1)N1N=CC2=C1N=C(C=C2C(=O)OCC2=CC=CC=C2)Cl | C21H16ClN3O2
reactant | 3-fluoro-3-methoxycarbonylphenylboronic acid | 79 mol, 15.7 g | FC1(CC(=CC=C1)B(O)O)C(=O)OC | C8H10BFO4
reactant | caesium carbonate | 0.079 mol, 25.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 125 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 4.0 mmol, 4.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | benzyl 1-benzyl-6-[4-fluoro-3-(methoxycarbonyl)phenyl]-1H-pyrazolo[3,4-b]pyridine-4-carboxylate | 12.3 g, yield: 62% | C(C1=CC=CC=C1)N1N=CC2=C1N=C(C=C2C(=O)OCC2=CC=CC=C2)C2=CC(=C(C=C2)F)C(=O)OC | C29H22FN3O4
